US04946857
A solution of 17.2 g of 2,3-epoxy-3,7-dimethyl-1-octanol, 15.0 g of (2-hydroxyethyl)methylamine and 20 ml of toluene was refluxed for 4 hours. After the reaction was completed, the reaction mixture was distilled under reduced pressure to give 21.0 g (yield 85%) of 2-[(2hydroxyethyl)methylamino]-3,7-dimethyl-1,3-octanediol Compound (60)]. The physical constants of Compound (60) are as follows.

reactant | 2,3-epoxy-3,7-dimethyl-1-octanol | 17.2 g | O1C(CO)C1(CCCC(C)C)C | C10H20O2
reactant | (2-hydroxyethyl)methylamine | 15.0 g | OCCNC | C3H9NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(2hydroxyethyl)methylamino]-3,7-dimethyl-1,3-octanediol | 21.0 g, yield 85% | OCCN(C(CO)C(CCCC(C)C)(O)C)C | C13H29NO3
